US05300687
Diethyl 3,5-bis(trifluoromethyl)benzylphosphonate
A mixture of 3,5-bis-trifluoromethylbenzyl bromide (5.0 g, 16 mmol) and triethyl phosphite (3.4 g, 20 mmol) was heated at 160° C. for 20 hours. The reaction mixture was cooled and distilled at 83° C. (0.03 mm Hg) to give 2.36 g of the product as a colorless oil in 48% yield. D.C.I.M.S. [MH+, 365].

reactant | 3,5-bis-trifluoromethylbenzyl bromide | 16 mmol, 5.0 g | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | triethyl phosphite | 20 mmol, 3.4 g | P(OCC)(OCC)OCC | C6H15O3P
product | Diethyl 3,5-bis(trifluoromethyl)benzylphosphonate | 2.36 g, 48% yield | FC(C=1C=C(CP(OCC)(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C13H15F6O3P
